US08809369B2
To a suspension of 60% sodium hydride (360 mg, 9 mmol) in N,N-dimethylformamide (5 mL) was added methanesulfonamide (865 mg, 9.1 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A56. A solution of 6-fluoro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (500 mg, 1.3 mmol) and 1,1′-carbonyldiimidazole (422 mg, 2.6 mmol) in N,N-dimethylformamide (3 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B56. Solution B56 was added to Solution A56 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded N-[6-fluoro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carbonyl]-methanesulfonamide (270 mg, 45%) as a white solid: MS (ESI) M+1=462.1.

reactant | sodium hydride | 9 mmol, 360 mg | [H-].[Na+]
reactant | methanesulfonamide | 9.1 mmol, 865 mg | CS(=O)(=O)N | CH5NO2S
reactant | 6-fluoro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 1.3 mmol, 500 mg | FC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCOCC1)(C)C | C22H25FN2O3
reactant | 1,1′-carbonyldiimidazole | 2.6 mmol, 422 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | N-[6-fluoro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carbonyl]-methanesulfonamide | 270 mg, 45% | FC=1C=C2C(CC(NC2=C(C1)C(=O)NS(=O)(=O)C)C1=CC(=CC=C1)N1CCOCC1)(C)C | C23H28FN3O4S
